US06231833B1
(7S,9aS)-7-Hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine
A solution of 5.84 g (21.6 mmol) of (7S,9aS)-N-BOC-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine (WO 93/25552) in 140 mL of trifluoroacetic acid and 60 mL of water was stirred at room temperature for 16 h. The mixture was concentrated and the residue dissolved in water. The aqueous phase saturated with solid sodium carbonate and extracted with chloroform (3×). The combined organic layers were dried (magnesium sulfate), filtered and evaporated to give 3.39 g (92%) of the title compound. This material was used without further purification for subsequent reactions. 13C NMR (base, d-6 DMSO): δ24.8, 25.1, 36.0, 45.7, 51.9, 56.1, 56.7, 62.0, 62.7.

reactant | (7S,9aS)-N-BOC-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 21.6 mmol, 5.84 g | C(=O)(OC(C)(C)C)N1C[C@H]2N(CC1)C[C@H](CC2)CO | C14H26N2O3
solvent | trifluoroacetic acid | 140 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 60 mL | O | H2O
product | (7S,9aS)-7-Hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 3.39 g, 92% | OC[C@H]1CC[C@@H]2N(CCNC2)C1 | C9H18N2O
